US04826814
Sodium carbonate (1.8 g) and 2.97 g of alpha-ethyl D-glutamate were dissolved in water, and a THF solution of 8.9 g of N2 -benzyloxycarbonyl-N6 -t-butoxycarbonyl-L-lysine N-hydroxysucceinimide ester was added. The mixture was stirred overnight at room temperature. The reaction mixture was acidified with 5% aqueous potassium hydrogensulfate solution to a pH of 2 to 3, and then exracted with ethyl acetate. The extract was washed successively with 5% aqueous potassium hydrogen-sulfate solution and aqueous sodium chloride solution, dried, and concentrated to dryness under reduced pressure. The residue was crystallized from ether/petroleum ether. The crystals were collected by filtration to give 8.5 g of N2 -benzyloxycarbonyl-N6 -t-butoxycarbonyl-L-lysyl-O1 -ethyl-D-glutamic acid (mp. 71°-73° C.). An aliquot (1.3 g) of the compound, 0.46 g of L-proline methyl ester hydrochloride, 0.28 g of N-methylmorpholine and 0.51 g of N-hydroxybenzotriazole were dissolved in methylene chloride. Under ice cooling, 0.53 g of the water-soluble carbodiimide hydrochloride was added to the solution. The mixture was stirred for 30 minutes, and then further stirred overnight at room temperature. The resulting solution was washed successively with 5% aqueous potassium hydrogensulfate solution, aqueous sodium bicarbonate solution, and water, dried, and concentrated to dryness under reduced pressure to give an oily substance. The oily substance was purified by CHP20P column chromatography (40 %→100% acetonitrile/water gradient) to give 1.4 g of a product. The product was dissolved in dioxane, and 6.5 ml of 1N-NaOH was added under cooling. The mixture was stirred at room temperature. After the reaction, the reaction mixture was adjusted to pH 2 to 3, and extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, dried and concentrated to dryness under reduced pressure. Trifluoroacetic acid (10 ml) was added to the residue, and under ice cooling, the mixture was stirred for 30 minutes. Trifluoroacetic acid was evaporated under reduced pressure, and the residue was subjected to CHP20P column chromatography (0%→60% acetonitrile/water gradient). Fractions containing the desired product were concentrated to dryness and lyophilized to give 0.68 g of the captioned compound.

reactant | Sodium carbonate | 1.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | alpha-ethyl D-glutamate | 2.97 g | N[C@H](CCC(=O)[O-])C(=O)OCC
reactant | N2 benzyloxycarbonyl-N6 -t-butoxycarbonyl-L-lysine | 8.9 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | N2 benzyloxycarbonyl-N6 -t-butoxycarbonyl-L-lysyl-O1 -ethyl-D-glutamic acid | 8.5 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@H](CCC(=O)O)C(=O)OCC | InChI=1S/C26H39N3O9.N2/c1-5-36-23(33)20(14-15-21(30)31)28-22(32)19(13-9-10-16-27-24(34)38-26(2,3)4)29-25(35)37-17-18-11-7-6-8-12-18;1-2/h6-8,11-12,19-20H,5,9-10,13-17H2,1-4H3,(H,27,34)(H,28,32)(H,29,35)(H,30,31);/t19-,20+;/m0./s1
